US06218393B1
(ii) 6-methoxy-3-pyridinecarboxylic acid
To a solution of 6-methoxy-3-pyridinecarboxaldehyde (50 mg, 0.36 mmol; prepared according to the method of Comins and Killpack, J. Org. Chem., 1990, 55, 69-73) in t-butanol (0.5 ml) was added a solution of potassium permanganate (81 mg) in water (1.0 ml). The mixture was stirred at room temperature for two hours, and then saturated sodium sulphite solution was added until the purple colour disappeared. Reaction mixture was extracted with chloroform several times as it was gradually acidified with dilute HCl (2N). Chloroform extracts were concentrated in vacuo to yield the title compound (42 mg) as a white solid.

reactant | 6-methoxy-3-pyridinecarboxaldehyde | COC1=CC=C(C=N1)C=O | C7H7NO2
reactant | potassium permanganate | 81 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium sulphite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | t-butanol | 0.5 ml | C(C)(C)(C)O | C4H10O
solvent | water | 1.0 ml | O | H2O
product | 6-methoxy-3-pyridinecarboxylic acid | 42 mg | COC1=CC=C(C=N1)C(=O)O | C7H7NO3
